US06936608B2
2-[7-(4-Fluoro-3-(pyrimidin-4-yl)phenyl)imidazo[1,2-b][1,2,4]triazin-3-yl]-propan-2-ol
4-Fluoro-3-(pyrimidin-4-yl)phenylboronic acid (50 mg, 0.23 mmol) was coupled to 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol (56 mg, 0.22 mmol) using the method of Example 20. Purification by chromatography (silica gel, 3% MeOH/CH2Cl2) then recrystallisation from hot toluene gave the title compound as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ 1.57 (6H, s), 5.77 (1H, s), 7.62 (1H, dd, J 11, 9 Hz), 7.98-8.01 (1H, m), 8.28-8.33 (1H, m), 8.49 (1H, s), 8.80 (1H, dd, J 7, 2 Hz), 8.97 (1H, d, J 5 Hz), 9.05 (1H, s), 9.38 (1H, d, J 1 Hz); MS (ES+) m/z 351 [M+H]+.

reactant | 4-Fluoro-3-(pyrimidin-4-yl)phenylboronic acid | 0.23 mmol, 50 mg | FC1=C(C=C(C=C1)B(O)O)C1=NC=NC=C1 | C10H8BFN2O2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | 0.22 mmol, 56 mg | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
product | 2-[7-(4-Fluoro-3-(pyrimidin-4-yl)phenyl)imidazo[1,2-b][1,2,4]triazin-3-yl]-propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)C2=NC=NC=C2 | C18H15FN6O
